US07683067B2
6-Bromo-N-methyl-2-oxoindoline-5-carboxamide
Methylamine (0.75 mL, 2.0 M in tetrahydrofuran) was added to a stirred solution of 6-bromo-2-oxoindoline-5-carboxylic acid (0.246 g, 0.96 mmol), O-(benzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium tetrafluoroborate (0.369 g, 1.15 mmol), 1-hydroxybenzotriazole hydrate (0.176 g, 1.15 mmol), and diisopropylethylamine (0.55 mL, 3.16 mmol) in dry N,N-dimethylformamide (4 mL) under an atmosphere of nitrogen. The resulting mixture was stirred at room temperature for 1.5 h. An aqueous solution of sodium bicarbonate was added and the solvent was evaporated. The resulting residue was purified on a silica gel column using dichloromethane/methanol, (9:1), as the eluent to give 0.125 g (48% yield) of the title compound: 1H NMR (CD3OD, 400 MHz) δ 7.27 (s, 1H), 7.11 (s, 1H), 3.20 (m, 2H), 3.09 (s, 3H); MS (ES) m/z 269 and 271 (M++1).

reactant | Methylamine | 2.0 M, 0.75 mL | CN | CH5N
reactant | 6-bromo-2-oxoindoline-5-carboxylic acid | 0.96 mmol, 0.246 g | BrC1=C(C=C2CC(NC2=C1)=O)C(=O)O | C9H6BrNO3
reactant | O-(benzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium tetrafluoroborate | 1.15 mmol, 0.369 g | F[B-](F)(F)F.N1(N=NC2=C1C=CC=C2)OC(=[N+](C)C)N(C)C
reactant | 1-hydroxybenzotriazole hydrate | 1.15 mmol, 0.176 g | O.ON1N=NC2=C1C=CC=C2
reactant | diisopropylethylamine | 3.16 mmol, 0.55 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | N,N-dimethylformamide | 4 mL | CN(C=O)C | C3H7NO
product | 6-Bromo-N-methyl-2-oxoindoline-5-carboxamide | 0.125 g, 48% yield | BrC1=C(C=C2CC(NC2=C1)=O)C(=O)NC | C10H9BrN2O2
